US04110351
A mixture of 10.0 g of (0.031 mole) of 5-tetradecyloxy-2-furoic acid, 200 ml of acetone and 4.3 g (0.031 mole) of potassium carbonate is stirred at room temperature after which 3.9 g (0.031 mole) of dimethylsulfate is added. The mixture is stirred with heating for about two and one-half hours during which time 10 ml of methanol is added. The mixture is then diluted with 100 ml of acetone, and filtered. The filtrate is evaporated to dryness and recrystallized from methanol to give 5-tetradecyloxy-2-furoic acid methyl ester, M.P. 56°-58° C.

reactant | 5-tetradecyloxy-2-furoic acid | 0.031 mole, 10.0 g | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
reactant | potassium carbonate | 0.031 mole, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 0.031 mole, 3.9 g | COS(=O)(=O)OC | C2H6O4S
reactant | methanol | 10 ml | CO | CH4O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-tetradecyloxy-2-furoic acid methyl ester | COC(=O)C=1OC(=CC1)OCCCCCCCCCCCCCC | C20H34O4
